US08629147B2
4-Chloro-3-[6-(2,8-diaza-spiro[5.5]undec-2-yl)-4-methyl-1H-benzoimidazol-2-yl]-1H-pyridin-2-one
To a suspension of 2-[2-(2-chloro-4-iodo-pyridin-3-yl)-7-methyl-3H-benzoimidazol-5-yl]-2,8-diaza-spiro[5.5]undecane (144 mg, 0.28 mmol) in H2O (1.5 mL) was added a solution of HCl in dioxane (4 M, 20 mL, 80 mmol). After it was heated at 85° C. for 18 h, the reaction mixture was evaporated to dryness under reduced pressure. The residue was purified by chromatography (50:10:1 CH2Cl2/MeOH/28% aqueous NH4OH) to afford the title compound (16 mg, 27%). 1H NMR (MeOH-d4) δ 1.35-1.82 (8H), 2.54 (s, 3H), 2.90-3.19 (8H), 6.60 (d, J=7 Hz, 1H), 6.89 (s, 1H), 6.96 (s, 1H), 7.58 (d, J=7 Hz, 1H). ESI-MS m/z 412 (MH+).

reactant | 2-[2-(2-chloro-4-iodo-pyridin-3-yl)-7-methyl-3H-benzoimidazol-5-yl]-2,8-diaza-spiro[5.5]undecane | 0.28 mmol, 144 mg | ClC1=NC=CC(=C1C=1NC2=C(N1)C(=CC(=C2)N2CC1(CCC2)CNCCC1)C)I | C22H25ClIN5
reactant | HCl | Cl | ClH
reactant | dioxane | 80 mmol, 4 M, 20 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 1.5 mL | O | H2O
product | 4-Chloro-3-[6-(2,8-diaza-spiro[5.5]undec-2-yl)-4-methyl-1H-benzoimidazol-2-yl]-1H-pyridin-2-one | 16 mg, 27% | ClC1=C(C(NC=C1)=O)C1=NC2=C(N1)C=C(C=C2C)N2CC1(CCC2)CNCCC1 | C22H26ClN5O
